US04876266
2-(2-Carbomethoxyethylthio)-1-(3,5-difluorobenzyl)imidazoline prepared as in example 12 is stirred with aqueous sodium hydroxide and the reaction mixture is heated at reflux for one hour, cooled, and neutralized with concentrated hydrochloric acid. The mixture then is extracted three times with ether and the combined ether extracts are concentrated. Trituration of the residue with boiling hexane and recrystallization from ethylacetate-hexane, yields 2-(2-carboxyethylthio)-1-(3,5-difluorobenzyl)imidazoline.

reactant | 2-(2-Carbomethoxyethylthio)-1-(3,5-difluorobenzyl)imidazoline | C(=O)(OC)CCSC=1N(CCN1)CC1=CC(=CC(=C1)F)F | C14H16F2N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-(2-carboxyethylthio)-1-(3,5-difluorobenzyl)imidazoline | C(=O)(O)CCSC=1N(CCN1)CC1=CC(=CC(=C1)F)F | C13H14F2N2O2S
